US07411086B2
The mass of 2-dimethylaminoethyl acrylate thus obtained was 693 g, wherein 0.0122 wt % of methyl acrylate and 0.0134 wt % of 2-dimethylamino ethanol, that is 0.0256 wt % of the total, were contained, therefore, 2-dimethylaminoethyl acrylate with a small amount of raw components could be obtained. The concentrations of the raw components were obtained by gas chromatography (detector: TCD).

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | 2-dimethylamino ethanol | CN(CCO)C | C4H11NO
product | 2-dimethylaminoethyl acrylate | C(C=C)(=O)OCCN(C)C | C7H13NO2
